* Z:\home\mint\Desktop\Design\Complete Designs\VoltageControlledCurrentSource.asc
.subckt VoltageControlledCurrentSource In Load Shunt
XU1 In Shunt Vcc 0 N002 LMx58_LM2904
V1 Vcc 0 9
M1 Load N002 Shunt Shunt IRF530
D1 Shunt N001 D
C1 N002 Shunt 0.1µ
.model D D
.lib C:\users\mint\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\mint\My Documents\LTspiceXVII\lib\cmp\standard.mos
* .lib LMx58_LM2904.CIR
* VCCS
* .ac dec 10 1 1K
.inc LMx58_LM2904_AI.CIR
* NOTES:\nUse "opamp2" symbol.\nChange its Value from "opamp2" to either\n"LMx58_LM2904" or "LMx24_LM2902".\nAdd SPICE Directive with ".inc" and the same model's filename.
.backanno
.ends VoltageControlledCurrentSource
.end


